US07687627B2
A mixture of (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (18.0 mmol) and aqueous hydrochloric acid was heated at a temperature 50-60° C. for 12 hours to provide crude (S)-N-{3-[4-(4-hydroxy-4-chloromethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide which was purified by silica gel column chromatography and used further.

reactant | (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 18.0 mmol | O1CC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C18H22FN3O4
reactant | hydrochloric acid | Cl | ClH
product | (S)-N-{3-[4-(4-hydroxy-4-chloromethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | OC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)CCl | C18H23ClFN3O4
